US08703805B2
Preparation of 1-methylethyl 5-{5-[3-(aminosulfonyl)phenyl]-2-thienyl}-1-(2,5-dichlorophenyl)-1H-pyrazole-3-carboxylate
Into a 25 mL flask was weighed 114 mg (224 mmol) of methyl 1-(2,5-dichlorophenyl)-5-(5-(3-sulfamoylphenyl)thiophen-2-yl)-1H-pyrazole-3-carboxylate, 156 mg of KF, 4 mL of isopropyl alcohol, and 200 μL of concentrated HCl. The reaction was heated at 80-85° C. for 3 days. The reaction was then washed into a separatory funnel with ethyl acetate and water. The ethyl acetate was separated, washed with brine, was dried (Na2SO4), and concentrated in vacuo. Product was further purified by silica gel flash chromatography (Jones Flashmaster, 25 g SiO2, gradient elution from 20% ethyl acetate to 60% ethyl acetate over 30 minutes). Appropriate fractions were combined and concentrated in vacuo to afford the product as a colorless powder, yield: 53.3 mg (44%). 1H NMR (400 MHz, CDCl3): δ 8.05 (s, 1H), 7.83 (d, J=8 Hz, 1H), 7.66 (d, J=8 Hz, 1H), 7.59 (s, 1H), 7.44-7.51 (m, 3H), 7.21 (d, J=4 Hz, 1H), 7.13 (s, 1H), 6.81 (d, J=4 Hz, 1H), 5.33 (heptet, J=6 Hz, 1H), 5.08 (s, 2H), 1.41 (d, J=7 Hz, 6H); MS (ES): 536 [M+H]+.

reactant | methyl 1-(2,5-dichlorophenyl)-5-(5-(3-sulfamoylphenyl)thiophen-2-yl)-1H-pyrazole-3-carboxylate | 224 mmol, 114 mg | ClC1=C(C=C(C=C1)Cl)N1N=C(C=C1C=1SC(=CC1)C1=CC(=CC=C1)S(N)(=O)=O)C(=O)OC | C21H15Cl2N3O4S2
reactant | KF | 156 mg | [F-].[K+]
reactant | HCl | 200 μL | Cl | ClH
reactant | isopropyl alcohol | 4 mL | C(C)(C)O | C3H8O
product | 1-methylethyl 5-{5-[3-(aminosulfonyl)phenyl]-2-thienyl}-1-(2,5-dichlorophenyl)-1H-pyrazole-3-carboxylate | NS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=CC(=NN1C1=C(C=CC(=C1)Cl)Cl)C(=O)OC(C)C | C23H19Cl2N3O4S2
